US08981085B2
A solution of (R)-tert-butyl 1-(5-bromo-3-(1-(4-methoxybenzyl)-1H-pyrazole-4-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (120 mg, 0.192 mmol) in DCM (3 mL) was treated with TFA (1 mL) at room temperature for 30 minutes. The reaction was then concentrated in vacuo and azeotroped with toluene. The resulting residue was dissolved in neat TFA (5 mL) and stirred at 65° C. for 1 hour. The reaction mixture was then concentrated in vacuo, and the residue obtained was purified by reverse phase HPLC (Gilson) to provide (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-1H-pyrazole-4-carboxamide hydrochloride (50 mg, 50% yield). 1H NMR (400 MHz, D2O) δ 8.26 (s, 1H), 8.12 (s, 2H), 7.33 (s, 1H), 3.67-3.63 (m, 1H), 3.41-3.37 (m, 1H), 3.30-3.27 (m, 1H), 3.19-3.10 (m, 2H), 1.90-1.83 (m, 1H), 1.68-1.65 (m, 1H), 1.55-1.51 (m, 1H), 1.36-1.34 (m, 1H); LCMS (APCI+) m/z 404, 406 (M+H)+.

reactant | (R)-tert-butyl 1-(5-bromo-3-(1-(4-methoxybenzyl)-1H-pyrazole-4-carboxamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.192 mmol, 120 mg | BrC=1C(=C2C(=NC1)NC=C2NC(=O)C=2C=NN(C2)CC2=CC=C(C=C2)OC)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C29H34BrN7O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-1H-pyrazole-4-carboxamide hydrochloride | 50 mg, 50% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(=O)C=2C=NNC2 | InChI=1S/C16H18BrN7O.ClH/c17-11-6-19-15-13(14(11)24-3-1-2-10(18)8-24)12(7-20-15)23-16(25)9-4-21-22-5-9;/h4-7,10H,1-3,8,18H2,(H,19,20)(H,21,22)(H,23,25);1H/t10-;/m1./s1
